US07652049B2
A 2-liter flask was charged with 10 g (0.348 mol) of 4-amino-3-iodobenzotrifluoride, 40 g of CuCN and 750 mL of DMF. The mixture was heated to and then maintained at reflux for 1 hour. The reaction was cooled and poured into 3 L of water containing 300 mL of concentrated ammonium hydroxide. To the mixture was added 1 L CH2Cl2. The mixture was then filtered through celite. The layers were separated and the aqueous layer was back extracted with CH2Cl2. The organic extracts were combined and the solvent removed under reduced pressure. The residue was dissolved in 1.5 L of ether and the resulting solution was washed with 1N ammonium hydroxide, aqueous sodium bisulfite, 1N aqueous HCl and brine. The solution was dried over anhydrous MgSO4 and filtered through a silica gel plug containing a layer of MgSO4 on top. The plug was washed with 0.5 L ether. The ether solutions were combined and concentrated to 750 mL and let stand at room temperature. After 2 days the resulting solids were collected, washed with hexanes and dried under reduced pressure to afford 2-amino-5-(trifluoromethyl)benzonitrile 1H NMR (CDCl3, 500 MHz) δ 7.68 (s, 1H), 7.58 (d, J=8.5 Hz, 1H), 6.81 (d, J=8.5 Hz, 1H), 4.80 (br s, 2H).

reactant | 4-amino-3-iodobenzotrifluoride | 0.348 mol, 10 g | NC1=C(C=C(C=C1)C(F)(F)F)I | C7H5F3IN
reactant | CuCN | 40 g | C(#N)[Cu]
reactant | DMF | 750 mL | CN(C)C=O | C3H7NO
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | CH2Cl2 | 1 L | C(Cl)Cl | CH2Cl2
solvent | water | 3 L | O | H2O
product | 2-amino-5-(trifluoromethyl)benzonitrile | NC1=C(C#N)C=C(C=C1)C(F)(F)F | C8H5F3N2
